US05075299
6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-diphenylmethyloxy-4-pyridone
To a solution of 300 mg of 6-hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-hydroxy-4-pyridone in 10 ml of dimethylformamide were successively added 213 mg of potassium carbonate and 423 mg of diphenylmethyl bromide. The mixture was stirred at room temperature for 2 hours. After completion of the reaction, the reaction liquid was concentrated and the concentrate was added to 20 ml of water and 40 ml of dichloromethane. The organic phase was washed with 20 ml of water.

reactant | 6-hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-hydroxy-4-pyridone | 300 mg | OCC1=C(C(C=C(N1O)C)=O)OCC1=CC=C(C=C1)OC | C15H17NO5
reactant | potassium carbonate | 213 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylmethyl bromide | 423 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-diphenylmethyloxy-4-pyridone | OCC1=C(C(C=C(N1OC(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)OCC1=CC=C(C=C1)OC | C28H27NO5
